US05118621
p-Nitrobenzaldehyde (1 g , 6.6 mMoles) and 30 ml of dry tetrahydrofuran (THF) was stirred at 0° C. in a septum sealed flask equipped with a pressure equalizing funnel. After purging with dry nitrogen, 7 ml of 1M vinyl magnesium bromide in THF was added dropwise under a nitrogen atmosphere. After addition of the Grignard reagent, the reaction was allowed to stir at room temperature for 30 min. The bulk of the THF was removed under vacuum and the reaction was quenched by pouring it into a slurry containing 200 ml of water, crushed ice and 100 ml of ether. The final pH of the slurry was adjusted to near neutral by dropwise addition of 2M sulfuric acid. The product was extracted with ether and the pooled extracts were washed twice with 30 ml of water and twice with 30 ml of saturated NaCl. Ether was removed under vacuum yielding a dense yellow oil which was chromatographed on preparative silica TLC plates using toluene : acetonitrile 10:1 v/v) as running solvent. Elution of the product from silica with methanol yielded 700 mg of semi-crystalline 1-(4'-nitrophenyl)2-propen-1-ol. Recrystallization from toluene and then ethanol gave needles of pure product. I.r.:(chloroform) (cm-1) --OH, 3600, 1040; intermolecular --OH, 3550-3320; aromatic, 1670, 858; --NO2, 1510, 1350, 872; --C=CH2, 3020, 2870, 990, 940. N.m.r.: δ(p.p.m.) ([2H]chloroform), 2.2 (1H, broad s, --OH, D2O exchangeable), 5.26 (1H, d, J2,3 cis 10.6 Hz, J3,3 gem 1 Hz, --C=CH2), 5.32 (1H, broad m, --CH=C), 5.42 (1H, d, J2,3 trans 17.2 Hz, J3,3 gem 1 Hz --C=CH2), 6.0 (1H, m, C--CH=C), 7.4 (2H, d, J 9 Hz, aromatic), 8.21 (2H, d, J 9 Hz, aromatic). U.v. maximum 272 nm, ε=10,500M-1 cm-1. Mp. 55° C.

reactant | p-Nitrobenzaldehyde | 6.6 mMoles, 1 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(4'-nitrophenyl)2-propen-1-ol | 700 mg | [N+](=O)([O-])C1=CC=C(C=C1)C(C=C)O | C9H9NO3
